US05190934
A suspension of 2.25 g of sodium hydride (55% dispersion in oil) in 10 ml of anhydrous tetrahydrofuran is cooled to 0° under an inert atmosphere. A solution of 8.9 g of ethyl (cyclohexylmethyl)phosphinate in 10 ml of anhydrous tetrahydrofuran is added dropwise maintaining the temperature at between 0°-5°. After the addition is complete the suspension is warmed to room temperature and stirred for 30 minutes before re-cooling to 0° C. A solution of 19.87 g of methyl iodide in 10 ml of anhydrous tetrahydrofuran is added slowly--very exothermic! After warming to room temperature, the reaction mixture is stirred for 45 minutes, re-cooled to 0° and carefully treated with water. Removal of the organic phase, drying and concentration affords a yellow oil. Chromatography on silica gel gives ethyl P-cyclohexylmethyl-P-methylphosphinate as a colourless oil; 1H-NMR (CDCl3): δ (ppm)=4.04 (2H, m, CH2OP), 1.94-1.57 (7H, m, 3×CH2 +CH), 1.45 (3H, d, J=15 Hz, P--CH3), 1.36-0.95 (9H, m, 3×CH2 +CH3).

reactant | sodium hydride | 2.25 g | [H-].[Na+]
reactant | ethyl (cyclohexylmethyl)phosphinate | 8.9 g | C1(CCCCC1)CP(OCC)=O | C9H19O2P
reactant | methyl iodide | 19.87 g | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl P-cyclohexylmethyl-P-methylphosphinate | C1(CCCCC1)CP(OCC)(=O)C | C10H21O2P
